US06544604B2
In a 500-ml three-neck flask equipped with a stirrer, a thermometer and a dropping funnel, 15.0 g (57.6 mmol) of 2,6-difluoro-4-(4-pentylphenyl)benzene was dissolved in 100 ml of THF under nitrogen atmosphere, and 43 ml (69.1 mmol) of n-BuLi (1.6M cyclohexane solution) was added dropwise at −65° C. or lower while stirring, followed by further stirring for one hour. Then, 7.2 g (63.4 mmol) of formylpiperidine was added dropwise thereto at −65° C. or lower, and the solution was further stirred for 2 hours. 200 ml of water was added to the reaction mixture, which was extracted with 400 ml of toluene, and the toluene layer was washed twice with 200 ml of water and then dried over anhydrous magnesium sulfate. Toluene was distilled off under reduced pressure, and the residue was purified by means of a silica gel column chromatography with toluene as a developing solvent to obtain 13.1 g of 2,6-difluoro-4-(4-pentylphenyl)benzaldehyde.

reactant | 2,6-difluoro-4-(4-pentylphenyl)benzene | 57.6 mmol, 15.0 g | FC1=CC(=CC(=C1)C1=CC=C(C=C1)CCCCC)F | C17H18F2
reactant | n-BuLi | 69.1 mmol, 1.6M, 43 ml | [Li]CCCC
reactant | formylpiperidine | 63.4 mmol, 7.2 g | C(=O)N1CCCCC1 | C6H11NO
reactant | water | 200 ml | O | H2O
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,6-difluoro-4-(4-pentylphenyl)benzaldehyde | 13.1 g | FC1=C(C=O)C(=CC(=C1)C1=CC=C(C=C1)CCCCC)F | C18H18F2O
